US04618610
Using 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1 g) in a similar manner to that of Example 18-(1), a diazonium salt-containing aqueous solution was produced. With stirring at 80° C., this solution was added dropwise to a solution composed of thiophenol (1.04 g), sodium hydroxide (0.45 g) and water (5 ml) and the mixture was refluxed for further 15 minutes. After cooling, the precipitate was recovered by filtration and dissolved in a mixture of chloroform and methanol. The solution was washed with aqueous sodium hydroxide and water in that order and concentrated to dryness under reduced pressure. The residue was purified by silica gel (30 g) column chromatography (eluent: ethyl acetate) to give 6-(4-phenylthiophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.46 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | thiophenol | 1.04 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | 0.45 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 6-(4-phenylthiophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.46 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C16H15N3OS
